US09107916B2
B. 2-[5-[(4-chloro-2-propoxyphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chloro-2-propoxyphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.01 (3H, t, J=7.2 Hz), 1.77-1.86 (2H, m), 3.98 (2H, t, J=2.4 Hz), 5.24 (2H, s), 5.78 (1H, d, J=1.6 Hz), 6.90 (1H, d, J=1.6 Hz), 6.95 (1H, dd, J=2.0 Hz, 8.4 Hz), 7.34 (1H, d, J=8.4 Hz), 7.39 (1H, dd, J=0.8 Hz, 4.8 Hz), 7.58 (1H, d, J=1.6 Hz), 8.05 (1H, d, s), 8.70 (1H, d, J=4.8 Hz). [M+H] Calc'd for C19H17ClN4O2, 369. Found, 369.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chloro-2-propoxyphenyl)methanol | ClC1=CC(=C(C=C1)CO)OCCC | C10H13ClO2
product | 2-[5-[(4-chloro-2-propoxyphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OCCC | C19H17ClN4O2
